US07365225B2
5-[(4-cyanobenzoyl)(4-{[(4-phenoxybenzyl)amino]carbonyl}benzyl)amino]-2-hydroxybenzoic acid
The title compound was prepared following the procedure A using 4-phenoxybenzylamine, 4-(chloromethyl)benzoyl chloride, 4-cyanobenzoyl chloride and 6-amino-2,2-dimethyl-4H-1,3-benzodioxin-4-one. M+(ESI): 598.1

reactant | 4-phenoxybenzylamine | O(C1=CC=CC=C1)C1=CC=C(CN)C=C1 | C13H13NO
reactant | 4-(chloromethyl)benzoyl chloride | ClCC1=CC=C(C(=O)Cl)C=C1 | C8H6Cl2O
reactant | 4-cyanobenzoyl chloride | C(#N)C1=CC=C(C(=O)Cl)C=C1 | C8H4ClNO
reactant | 6-amino-2,2-dimethyl-4H-1,3-benzodioxin-4-one | NC1=CC2=C(OC(OC2=O)(C)C)C=C1 | C10H11NO3
product | 5-[(4-cyanobenzoyl)(4-{[(4-phenoxybenzyl)amino]carbonyl}benzyl)amino]-2-hydroxybenzoic acid | C(#N)C1=CC=C(C(=O)N(C=2C=CC(=C(C(=O)O)C2)O)CC2=CC=C(C=C2)C(=O)NCC2=CC=C(C=C2)OC2=CC=CC=C2)C=C1 | C36H27N3O6
